US04833262
Synthesis of 4-bromobutyldimethylchlorosilane
Hexachloroplatinic acid hexahydrate (0.02 g, 0.039 mmole) was dissolved in a minimum of 2-propanol. This solution was dissolved in 75 ml toluene under argon. 2-propanol and water were removed by azeotropically distilling 25 ml of the toluene. The resulting solution was stirred and 6.17 g (0.046 mole) of 4-bromo-1-butene was added at 40° C. 4.32 g (0.046 mole) of dimethylchlorosilane was slowly added and the solution was heated to 60° C. and allowed to react for four hours. The mixture was distilled to remove the toluene. Further vacuum distillation yielded 8.0 g of product with a b.p. of 92°-95° C. at 5 mm Hg pressure. 'H NMR confirmed the structure.

reactant | 4-bromo-1-butene | 0.046 mole, 6.17 g | BrCCC=C | C4H7Br
reactant | dimethylchlorosilane | 0.046 mole, 4.32 g | C[SiH](Cl)C | C2H7ClSi
solvent | 2-propanol | CC(C)O | C3H8O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Hexachloroplatinic acid hexahydrate | 0.039 mmole, 0.02 g | O.Cl.Cl.Cl[Pt](Cl)(Cl)Cl
product | 4-bromobutyldimethylchlorosilane | 8.0 g | BrCCCC[Si](Cl)(C)C | C6H14BrClSi
